US07737166B2
2-(N-tert-Butyl-N-methylamino)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-137)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.70 mmol) was dissolved in dichloromethane (10 ml), and diisopropylethylamine (0.15 ml, 0.88 mmol) and N-methyl-tert-butylamine (0.10 ml, 0.84 mmol) were added. After heating under reflux for 3 hours, N-methyl-tert-butylamine (50.0 μl, 0.42 mmol) was added, followed by heating under reflux for 2 hours. This was diluted with dichloromethane, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane) to obtain a pale yellow solid (0.22 g, 0.65 mmol, 93%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 0.88 mmol, 0.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-tert-butylamine | 0.84 mmol, 0.10 ml | CNC(C)(C)C | C5H13N
reactant | N-methyl-tert-butylamine | 0.42 mmol, 50.0 μl | CNC(C)(C)C | C5H13N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(N-tert-Butyl-N-methylamino)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.65 mmol, 0.22 g, 93% | C(C)(C)(C)N(C)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C20H20FN3O
